US08461328B2
A solution of (2R)-1-oxo-1-(1-(phenylsulfonyl)-4-(tetrahydro-2H-pyran-3-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-ylamino)propan-2-yl acetate (830 mg, 1.7 mmol) in acetic acid (10 mL) was stirred at 105° C. for 5 h, then the reaction was cooled down and concentrated. Purification by flash chromatography (40 to 100% ethyl acetate in heptane) afforded 525 mg (66%) of (1R)-1-(6-(phenylsulfonyl)-1-(tetrahydro-2H-pyran-3-yl)-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridin-2-yl)ethyl acetate. LCMS (Method E, ESI): RT=1.49 min, m+H=469.2; 1H NMR (400 MHz, CDCl3) δ 8.25-7.99 (m, 2H), 7.84 (s, 1H), 7.61-7.35 (m, 4H), 6.58 (d, J=4.2 Hz, 1H), 5.04 (t, J=12.8 Hz, 1H), 4.02-3.82 (m, 2H), 3.80-3.55 (m, 2H), 3.47 (dd, J=11.1, 6.1 Hz, 1H), 2.86 (s, 2H), 2.11-1.93 (m, 1H), 2.17 (s, 3H), 1.80 (dtd, J=14.6, 7.2, 3.7 Hz, 1H), 1.74-1.51 (m, 3H).

reactant | (2R)-1-oxo-1-(1-(phenylsulfonyl)-4-(tetrahydro-2H-pyran-3-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-ylamino)propan-2-yl acetate | 1.7 mmol, 830 mg | C(C)(=O)O[C@@H](C(NC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)NC2COCCC2)=O)C | C23H26N4O6S
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | (1R)-1-(6-(phenylsulfonyl)-1-(tetrahydro-2H-pyran-3-yl)-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridin-2-yl)ethyl acetate | 525 mg, 66% | C(C)(=O)O[C@H](C)C1=NC=2C(=C3C(=NC2)N(C=C3)S(=O)(=O)C3=CC=CC=C3)N1C1COCCC1 | C23H24N4O5S
